US07307099B2
4-(1-benzenesulfonyl-5-methoxy-1H-indol-2-yl)-4-hydroxy-cyclohexa-2,5-dienone
The title compound was prepared from 4,4-dimethoxy-cyclohexa-2,5-dienone and 1-benzenesulfonyl-5-methoxy-1H-indole, according to Method C, described above. Yield 32%; mp 126-128° C.; 1H NMR (CDCl3) δ 7.73-7.83 (m, 3H), 7.40-7.49 (m, 2H), 7.33-7.40 (m, 2H), 6.76-6.84 (m, 3H), 6.64 (s, 1H), 6.20 (d, J=10 Hz, 2H), 5.40 (s, 1H), 3.67 (s, 3H); 13C NMR (CDCl3) δ 196.6, 185.3, 157.3, 147.9, 141.8, 137.7, 134.3, 133.2, 129.8, 129.7, 129.3, 127.9, 126.9, 116.8, 115.4, 114.4, 104.2, 81.2, 67.9, 55.9; MS (AP+) m/z 396.09 (M++1), 378.08.

reactant | 4,4-dimethoxy-cyclohexa-2,5-dienone | COC1(C=CC(C=C1)=O)OC | C8H10O3
reactant | 1-benzenesulfonyl-5-methoxy-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)OC | C15H13NO3S
product | 4-(1-benzenesulfonyl-5-methoxy-1H-indol-2-yl)-4-hydroxy-cyclohexa-2,5-dienone | Yield 32% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)OC)C1(C=CC(C=C1)=O)O | C21H17NO5S
